US08084477B2
The yields were increased by adding auxiliary enzymes to reduce pyruvate to lactate. Lactate dehydrogenase requires NADH as a cofactor. The NADH was regenerated using formate dehydrogenase. A solution containing 5,5,5-trifluoro-2-oxopentanoic acid (100 mg, 0.588 mmoles), D,L-alanine (200 mg, 2.244 mmoles), 0.02 mM pyridoxal phosphate, sodium formate (68 mg, 1 mmole), NAD (3.31 mg, 5 μmoles) L-lactate dehydrogenase cloned from rabbit muscle (Biocatalytics LDH-103, 0.107 mg, 15 units), and formate dehydrogenase (0.5 mL, 15 units cloned from Pichia pastoris and expressed in Escherichia coli) in 0.1 M potassium phosphate buffer, pH 7.5, was incubated with R-transaminase AT-103 from Biocatalytics (5 mg, 44units) or cloned R-transaminase from Bacillus thuringiensis SC16569 (0.5 mL, 10 units) at 30° C. in a total volume of 5 mL in 15 mL tubes. Reaction yields of (R)-5,5,5-trifluoro-2-aminopentanoic acid of 94% and 91% were obtained with AT-103 and BMS transaminases, respectively. Ee was 100% in both cases.

reactant | pyruvate | C(C(=O)C)(=O)[O-]
reactant | lactate | C(C(O)C)(=O)[O-]
reactant | NADH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | formate | C(=O)[O-]
reactant | 5,5,5-trifluoro-2-oxopentanoic acid | 0.588 mmoles, 100 mg | FC(CCC(C(=O)O)=O)(F)F | C5H5F3O3
reactant | D,L-alanine | 2.244 mmoles, 200 mg | NC(C)C(=O)O | C3H7NO2
reactant | pyridoxal phosphate | 0.02 mM | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
reactant | sodium formate | 1 mmole, 68 mg | C(=O)[O-].[Na+]
reactant | NAD | 5 μmoles, 3.31 mg | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
solvent | potassium phosphate | 0.1 M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | (R)-5,5,5-trifluoro-2-aminopentanoic acid | FC(CC[C@H](C(=O)O)N)(F)F | C5H8F3NO2
